US09023846B2
A solution of 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile (186 mg, 0.937 mmol) in 1,4-dioxane (5 mL) was treated with K3PO4 (1.00 g, 5.10 mmol), 2-trifluoromethylphenylboronic acid (178 mg, 0.937 mmol), 1,1′-bis(di-tert-butylphosphino)ferrocene (60.5 mg, 0.128 mmol) and Pd(OAc)2 (28.6 mg, 0.128 mmol). The resulting mixture was stirred 80° C. overnight. The cooled mixture was diluted with EtOAc (50 mL) and washed with water (50 mL). The aqueous layer was extracted twice with EtOAc (30 mL) and the combined extracts were dried over MgSO4 and concentrated in vacuo. The resulting residue was purified on silica (0:100-100:0 EtOAc-hexanes) to yield 4-amino-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridine-2-carbonitrile. 1H-NMR (400 MHz, CDCl3) δ: 7.79 (m, 1H), 7.67 (m, 4H), 7.52 (m, 1H), 7.04 (s, 1H).

reactant | 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile | 0.937 mmol, 186 mg | NC1=C(C(=NC(=C1)Cl)C#N)[N+](=O)[O-] | C6H3ClN4O2
reactant | K3PO4 | 5.10 mmol, 1.00 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-trifluoromethylphenylboronic acid | 0.937 mmol, 178 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene | 0.128 mmol, 60.5 mg | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
catalyst | Pd(OAc)2 | 0.128 mmol, 28.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-amino-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | NC1=C(C(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)C#N)[N+](=O)[O-] | C13H7F3N4O2
